US20010020089A1
(2R,3R,4S,5S)-4-(Benzoyloxy)-5-[(ethylamino)carbonyl]-2-{6-[(9H-fluoren-9-ylmethyl)amino]-2-iodo-9H-purin-9-yl}tetrahydro-3-furanyl benzoate
Prepared from ((2R,3R,4S,5S)-4-(benzoyloxy)-2-(6-chloro-2-iodo-9H-purin-9-yi)-5-[(ethylamino)carbonyl]-tetrahydro-3-furanyl benzoate (Preparation 19) and 9H-fluoren-9-ylmethylamine by the same method as Preparation 20. The title compound was obtained as a yellow foam.

reactant | (2R,3R,4S,5S)-4-(benzoyloxy)-2-(6-chloro-2-iodo-9H-purin-9-yi)-5-[(ethylamino)carbonyl]-tetrahydro-3-furanyl benzoate | C(C1=CC=CC=C1)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C1=CC=CC=C1)=O)C(=O)NCC)N1C2=NC(=NC(=C2N=C1)Cl)I | C26H21ClIN5O6
reactant | 9H-fluoren-9-ylmethylamine | C1=CC=CC=2C3=CC=CC=C3C(C12)CN | C14H13N
product | (2R,3R,4S,5S)-4-(Benzoyloxy)-5-[(ethylamino)carbonyl]-2-{6-[(9H-fluoren-9-ylmethyl)amino]-2-iodo-9H-purin-9-yl}tetrahydro-3-furanyl benzoate | C(C1=CC=CC=C1)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C1=CC=CC=C1)=O)C(=O)NCC)N1C2=NC(=NC(=C2N=C1)NCC1C2=CC=CC=C2C=2C=CC=CC12)I | C40H33IN6O6
